US06518423B1
Ethyl[3-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-3-azabicyclo[3.1.0]hex-6-yl]carboxylate
To a solution of 1.523 g of ethyl(3-azabicyclo[3.1.0]hex-6-yl)carboxylate in N,N-dimethylformamide (30 ml) were added 2.30 g of sodium hydrogencarbonate and 1.39 g of 8-chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine and the resulting mixture was heated to 80° C. for 2 hours. After adding water and ethyl acetate, the organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. Then the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.574 g of the title compound as pale yellow crystals.

reactant | ethyl(3-azabicyclo[3.1.0]hex-6-yl)carboxylate | 1.523 g | C(C)OC(=O)C1C2CNCC12 | C8H13NO2
reactant | sodium hydrogencarbonate | 2.30 g | C(O)([O-])=O.[Na+]
reactant | 8-chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 1.39 g | ClCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H8ClN3S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl[3-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)-3-azabicyclo[3.1.0]hex-6-yl]carboxylate | 0.574 g | C(C)OC(=O)C1C2CN(CC12)CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C19H20N4O2S
